US09163021B2
(4-aminopyridin-2-yl)[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1,1-dimethylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]methanone
To a solution of [1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1,1-dimethylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]{4-[(diphenylmethylene)amino]pyridin-2-yl}methanone (Preparation 35, 1.4 g, 2.38 mmol) in THF (3 mL) was added a 1M solution of citric acid (2.5 g, 11.9 mmol) and the reaction was stirred at room temperature for 4 hours. A 10% aqueous solution of potassium carbonate was added carefully, and the mixture extracted into EtOAc (3×50 mL). The organic layers were combined, dried over MgSO4 and concentrated in vacuo. To the residue was added DCM and a solid precipitated that was filtered and dried. The mother liquors were purified using silica gel column chromatography eluting with 100% heptanes to 100% EtOAc to 5% MeOH in EtOAc to afford further material. The solids were combined to afford the title compound (70%, 710 mg).

reactant | [1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1,1-dimethylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]{4-[(diphenylmethylene)amino]pyridin-2-yl}methanone | 2.38 mmol, 1.4 g | [Si](C)(C)(C(C)(C)C)OCC(C)(C)N1C=C(C=2C=NC=CC21)C(=O)C2=NC=CC(=C2)N=C(C2=CC=CC=C2)C2=CC=CC=C2 | C36H40N4O2Si
reactant | citric acid | 11.9 mmol, 2.5 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (4-aminopyridin-2-yl)[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1,1-dimethylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]methanone | 710 mg, 70% | NC1=CC(=NC=C1)C(=O)C1=CN(C2=C1C=NC=C2)C(CO[Si](C)(C)C(C)(C)C)(C)C | C23H32N4O2Si
